US07365088B2
(i) (4-Amino-phenyl)-piperidin-1-yl-methanone
To a solution of 100 mg 4-Amino-benzoic acid in 1 mL DCM and 0.2 mL NEt3, 62 mg piperidine and 184 mg BOP-Cl were added at RT and the mixture was stirred for 16 h. After the addition of 5 mL water the mixture was filtered through a chem elut® cartridge by elution with ethyl acetate and then concentrated under reduced pressure. The residue was directly subjected to the subsequent amide coupling reaction without further purification. Yield: 125 mg.

reactant | 4-Amino-benzoic acid | 100 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | piperidine | 62 mg | N1CCCCC1 | C5H11N
reactant | BOP-Cl | 184 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | water | 5 mL | O | H2O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 0.2 mL | CCN(CC)CC | C6H15N
product | (4-Amino-phenyl)-piperidin-1-yl-methanone | NC1=CC=C(C=C1)C(=O)N1CCCCC1 | C12H16N2O
